US04579947
1-{3-[4-(4-Chlorophenethyl)piperazin-1-yl]propyl}-3-n-hexylurea dihydrochloride
A solution of n-hexyl isocyanate (1.27 g; 10 mmole) in methylene chloride (25 ml) was added to a solution of 1-(3-aminopropyl)-4-(4-chlorophenethyl)piperazine (2.82 g; 10 mmole) in methylene chloride (50 ml). The resulting mixture was refluxed for 6 hours and concentrated in vacuo to give a yellow oil which was chromatographed on silica gel (methylene chloride/methanol/ammonium hydroxide; 45/5/1). Precipitation as the dihydrochloride and recrystallization from ethanol provided the title compound (0.91 g; 19% yield) as colorless crystals, m.p. 230°-233° C.

reactant | n-hexyl isocyanate | 10 mmole, 1.27 g | C(CCCCC)N=C=O | C7H13NO
reactant | 1-(3-aminopropyl)-4-(4-chlorophenethyl)piperazine | 10 mmole, 2.82 g | NCCCN1CCN(CC1)CCC1=CC=C(C=C1)Cl | C15H24ClN3
solvent | methylene chloride | 25 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | 1-{3-[4-(4-Chlorophenethyl)piperazin-1-yl]propyl}-3-n-hexylurea dihydrochloride | 0.91 g, 19% yield | Cl.Cl.ClC1=CC=C(CCN2CCN(CC2)CCCNC(=O)NCCCCCC)C=C1 | InChI=1S/C22H37ClN4O.2ClH/c1-2-3-4-5-12-24-22(28)25-13-6-14-26-16-18-27(19-17-26)15-11-20-7-9-21(23)10-8-20;;/h7-10H,2-6,11-19H2,1H3,(H2,24,25,28);2*1H
